US07531559B2
b) Preparation of 2-methyl-2H-1,2,3-triazole-4,5-dicarboxylic acid monomethyl ester
To a solution of 2-methyl-2H-1,2,3-triazole-4,5-dicarboxylic acid dimethylester (1.2 g; 6 mmol) in 30 ml methanol was added 358 mg KOH (assay 86%; 5.5 mmol). The mixture was heated at reflux temperature for 48 hours. The solvent was evaporated and the residue was then taken into water and extracted with ethyl acetate (3 times). The combined organic phases contained non-reacted starting material. The aqueous phase was acidified with 2N HCl (pH2-3) and extracted with ethyl acetate (3 times). The extracts were combined, dried (anhydrous MgSO4) and evaporated to dryness to give 803 mg (72%) of the desired compound (m.p. 125-126° C.; 1H-NMR (300 MHz, DMSO-d6), δ(ppm): 13.7(br.s,1H, exchangable with D2O), 4.24(s,3H), 3.84(s,3H).

reactant | 2-methyl-2H-1,2,3-triazole-4,5-dicarboxylic acid dimethylester | 6 mmol, 1.2 g | COC(=O)C1=NN(N=C1C(=O)OC)C | C7H9N3O4
reactant | KOH | 5.5 mmol, 358 mg | [OH-].[K+]
solvent | methanol | 30 ml | CO | CH4O
product | 2-methyl-2H-1,2,3-triazole-4,5-dicarboxylic acid monomethyl ester | 803 mg, 72% | COC(=O)C1=NN(N=C1C(=O)O)C | C6H7N3O4
